US06518264B2
1-{(R*)-[4-(chloromethyl)phenyl](4-(chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form B isomer, may be prepared by carrying out the operation as described in Example 87, starting with 7.3 g of the mixture of the 2 diastereoisomers (B forms) 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(R)-(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidin-3-ol and 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(S)-(3,5-difluorophenyl)(methylsulfonyl)methyl]azetidin-3-ol, 8.2 g of 4-dimethylaminopyridine, 150 cm3 of dichloromethane and 3.2 cm3 of methanesulfonyl chloride. The crude product is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3 cm, height 30 cm), at an argon pressure of 0.2 bar, eluting with dichloromethane and collecting 100 cm3 fractions. Fractions 15 to 30 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 2.50 g of 1-{(R*)-[4-(chloromethyl)phenyl]-(4-chlorophenyl)methyl}-3-{(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form B isomer, are obtained in the form of a white foam.

reactant | 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(S)-(3,5-difluorophenyl)(methylsulfonyl)methyl]azetidin-3-ol | ClCC1=CC=C(C=C1)[C@@H](N1CC(C1)(O)[C@@H](S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H23Cl2F2NO3S
reactant | methanesulfonyl chloride | 3.2 cm3 | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 8.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | 1-{(R*)-[4-(chloromethyl)phenyl]-(4-chlorophenyl)methyl}-3-{(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 2.50 g | ClCC1=CC=C(C=C1)[C@@H](N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO2S
